US07994171B2
1-(pyrazin-2-yl)cyclopropanecarboxylic acid.
1-(Pyrazin-2-yl)cyclopropanecarbonitrile (0.25 g, 1.72 mmol, 1 eq) was dissolved in MeOH (5 ml) and NaOH solution (20 wt % in water, 2.0 ml) was added via syringe in one portion. The orange mixture was heated to 75° C. for 22 h., cooled to room temperature, and acidified to pH 2-3 with 6N HCl. The mixture was filtered through a pad of celite with MeOH wash and the filtrate was concentrated. The residue was suspended in ethyl acetate, dried with Na2SO4, filtered and concentrated to give the product as an orange solid. Yield: 0.18 g (64%) 1H NMR (400 MHz, DMSO-d6): δ 1.42-1.45 (m, 2H), 1.54-1.56 (m, 2H), 8.48-8.53 (m, 2H), 8.86-8.87 (d, 1H, J=1.6 Hz), 12.58 (s, 1H). LCMS: (ES+) m/z=165.2 (M+H)+

reactant | 1-(Pyrazin-2-yl)cyclopropanecarbonitrile | 1.72 mmol, 0.25 g, 1 eq | N1=C(C=NC=C1)C1(CC1)C#N | C8H7N3
reactant | NaOH | 2.0 ml | [OH-].[Na+]
reactant | HCl | 6N | Cl | ClH
reactant | MeOH | 5 ml | CO | CH4O
product | 1-(pyrazin-2-yl)cyclopropanecarboxylic acid | N1=C(C=NC=C1)C1(CC1)C(=O)O | C8H8N2O2
